US07635715B2
Step E: Preparation of Ethyl 6-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate
To 5 mL concentrated H2SO4 stirred at 0° C., was slowly added diethyl 2-(2-(4-fluorophenyl)-2-methylpropanoyl)malonate (1.6 g, 4.9 mmol). The reaction was stirred at 0° C. to room temperature for 1 hour, M+1=279. The resulting mixture was poured into 100 g crushed ice and extracted with EtOAc (3×50 mL). The combined organic layers were washed with H2O (20 mL), brine (20 mL), dried over anhydrous Na2SO4, and concentrated in vacuo. The crude product was purified by column chromatography eluting with 20% EtOAc/hexane to give 1.2 g of the product as pale yellow solid. MS m/e=279 (M+H)+.

reactant | H2SO4 | 5 mL | OS(=O)(=O)O | H2O4S
reactant | diethyl 2-(2-(4-fluorophenyl)-2-methylpropanoyl)malonate | 4.9 mmol, 1.6 g | FC1=CC=C(C=C1)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C | C17H21FO5
product | Ethyl 6-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 1.2 g | FC=1C=C2C(=C(C(C(C2=CC1)(C)C)=O)C(=O)OCC)O | C15H15FO4
